US08664220B2
Step 6: 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-5-phenyl-[1,3,4]oxadiazole
To [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide (0.142 g, 0.46 mmol) in CH2Cl2 (2.3 mL) at 0° C. was added triethylamine (0.19 mL, 1.37 mmol) and benzoyl chloride (0.05 mL, 0.46 mmol), and the reaction was stirred at room temperature for 3 hours. Toluenesulfonyl chloride (0.088 g, 0.46 mmol) was added, and the reaction was stirred overnight. After aqueous workup, the crude material was purified by silica gel chromatography to give the title compound.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-acetic acid hydrazide | 0.46 mmol, 0.142 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC(=O)NN | C12H12BrN3O2
reactant | triethylamine | 1.37 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.46 mmol, 0.05 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Toluenesulfonyl chloride | 0.46 mmol, 0.088 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 2.3 mL | C(Cl)Cl | CH2Cl2
product | 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylmethyl]-5-phenyl-[1,3,4]oxadiazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC=1OC(=NN1)C1=CC=CC=C1 | C19H14BrN3O2
